US05679696
A suspension of methyl 3-cyclopentyloxy-4-(methylthio)benzoate (0.8 g) in methanol (10 mL) and water (5 mL) is treated with potassium carbonate (0.48 g) and the mixture is heated at reflux for 7 hours. The mixture is concentrated, and the resulting residue is partitioned between diethyl ether (20 mL) and water (20 mL). The aqueous layer is separated, acidified to pH 1 by treatment with dilute hydrochloric acid (2N), and extracted with dichloromethane (2×25 mL). The combined organic extracts are dried and concentrated, to give 3-cyclopentyloxy-4-(methylthio)benzoic acid (0.7 g) in the form of a white solid m.p. 150°-152° C.

reactant | methyl 3-cyclopentyloxy-4-(methylthio)benzoate | 0.8 g | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1SC | C14H18O3S
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 3-cyclopentyloxy-4-(methylthio)benzoic acid | 0.7 g | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1SC | C13H16O3S
